US08440658B2
A mixture of 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol (500 mg, 2.19 mmol), (S)-3-isocyanato-2,2-dimethyl-butane (845 mg, 5.58 mmol), and DBU (681 mg, 5.9 mmol) in THF (10 mL) was heated to reflux for 25 h. The mixture was diluted with EtOAc and washed with 1 N aq HCl. The aqueous phase was extracted with EtOAc (3×). The combined organic phase was dried over Na2SO4. After the solvents were evaporated, the crude product was purified by column to give 6-allyl-3-((2S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (80 mg, crude).

reactant | 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol | 2.19 mmol, 500 mg | ClCCC(CC=C)(O)C1=CC=C(C=C1)F | C12H14ClFO
reactant | (S)-3-isocyanato-2,2-dimethyl-butane | 5.58 mmol, 845 mg | N(=C=O)[C@H](C(C)(C)C)C | C7H13NO
reactant | DBU | 5.9 mmol, 681 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-allyl-3-((2S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 80 mg | C(C=C)C1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C19H26FNO2
